US04093555
410 mg. of 2,2-bis-(4'-β-hydroxyethoxy-3'-bromphenyl)-propane is heated to boiling for 20 hours with 223 g. of crotonic acid in 650 ml. of cyclohexane in the presence of 12 g. of p-toluene sulfonic acid and 0.6 g. of 2,6-di-t-butyl-p-cresol whereby water which is formed is removed continuously. The reaction mixture is worked up as in Example 1 and by concentrating the organic solution there is obtained a crystallized precipitate from which residual liquid is withdrawn by vacuum and which is constituted of 401 g. of 2,2-bis-(4'-β-hydroxyethoxy-3'-bromphenyl)-propane-dicrotonate, melts at about 60° C., and can be reacted without further purification with ethylenimine. To that end, 122 g. of the dicrotonate is melted and is combined at 40° C. with 0.5 g. of triethylamine and 51 g. of ethylenimine. The mixture is permitted to stand for 5 days at room temperature and is then dissolved in 600 ml. of a mixture of cyclohexane and ethyl acetate in which the volumetric ratio of the cyclohexane to the ethyl acetate is 2:1. The organic solution is washed several times with water. After drying of the solution with sodium sulfate and concentrating of the solution, finally under high vacuum, there is obtained 126 g. of a highly viscous substance having an amine equivalent of 374 and an ethylenimine equivalent of 379 which is essentially constituted of 2,2-bis-(4'-β-hydroxyethoxy-3'-bromphenyl)-propane-bis-β-ethylenimino butyrate, having a bromine content calculated to be 23.0% and found to be 22.4%. 1.0 g. of this substance is mixed with 25 mg. of p-methoxybenzene sulfonic acid methyl ester and the mixture is introduced into a mold. The hardening begins very soon and is essentially completed after 10 minutes.

reactant | 2,2-bis-(4'-β-hydroxyethoxy-3'-bromphenyl)-propane | OCCOC1=C(C=C(C=C1)C(C)(C)C1=CC(=C(C=C1)OCCO)Br)Br | C19H22Br2O4
reactant | crotonic acid | C(\C=C\C)(=O)O | C4H6O2
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2,6-di-t-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
